US07488844B2
(i) Ethyl(2S)-3-{4-[2-(benzyloxy)-2-oxoethoxy]phenyl}-2-ethoxypropanoate
To a solution of ethyl(2S)-2-ethoxy-3-(4-hydroxyphenyl)propanoate (23.8 g, 100 mmol, prepared as described in WO99/62872) in acetonitrile (200 mL) was added anhydrous potassium carbonate (31.9 g, 231 mmol) followed by benzyl bromoacetate (17.4 mL, 110 mmol) and the reaction mixture was refluxed overnight. The reaction mixture was allowed to cool to room temperature, insoluble salts were filtered off and the solution was concentrated in vacuo. The residue was taken up in ethyl acetate (300 mL), and the organic phase was washed with aqueous NaHCO3 (3×100 mL) and brine (100 mL), dried over anhydrous MgSO4, and concentrated in vacuo. Purification on silica gel with methylene chloride as the eluent and collection of pure fractions yielded 22.4 g (58%) of a yellow oil.

reactant | ethyl(2S)-2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | potassium carbonate | 231 mmol, 31.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromoacetate | 110 mmol, 17.4 mL | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | Ethyl(2S)-3-{4-[2-(benzyloxy)-2-oxoethoxy]phenyl}-2-ethoxypropanoate | 22.4 g, 58% | C(C1=CC=CC=C1)OC(COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)=O | C22H26O6
